US05135932
6-[4-[3-[3-(4-(2-Isopropoxyethoxy-methyl)phenoxy)-2-hydroxypropylamino]propoxy]-3-chloro-phenyl]-4,5-dihydro-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2-isopropoxyethoxymethyl)phenoxy]-2,3-epoxypropane and 6-[4-(3-aminopropoxy)-3-chloro-phenyl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 1-[4-(2-isopropoxyethoxymethyl)phenoxy]-2,3-epoxypropane | C(C)(C)OCCOCC1=CC=C(OCC2CO2)C=C1 | C15H22O4
reactant | 6-[4-(3-aminopropoxy)-3-chloro-phenyl]-4,5-dihydro-3(2H)-pyridazinone | NCCCOC1=C(C=C(C=C1)C=1CCC(NN1)=O)Cl | C13H16ClN3O2
product | 6-[4-[3-[3-(4-(2-Isopropoxyethoxy-methyl)phenoxy)-2-hydroxypropylamino]propoxy]-3-chloro-phenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)OCCOCC1=CC=C(OCC(CNCCCOC2=C(C=C(C=C2)C=2CCC(NN2)=O)Cl)O)C=C1 | C28H38ClN3O6
